US07776910B2
2-(Trimethylsilyl)ethane thiol (0.33 mL, 2.1 mmol), Pd2(dba)3 (183.9 mg), Xantphos (231.4 mg) and DIPEA (0.296 mL) were added to a solution of (S)-3-(4-bromo-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (528 mg, 1.618 mmol) in 1,4-dioxane (7 mL) under nitrogen atmosphere. The reaction mixture was heated at 95-100° C. for 20 hours. After cooling to room temperature, a solution of 10% KHSO4/Na2SO4 was added and the mixture was extracted with EtOAc. The combined organic extracts were washed with brine, dried over Na2SO4, filtered, and evaporated under reduced pressure. The residue was purified via flash chromatography (hexane/EtOAc, 94/6) to give 616 mg (quantitative yield) of (S)-3-[4-(2-trimethylsilanyl-ethylsulfanyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester.

reactant | 2-(Trimethylsilyl)ethane thiol | 2.1 mmol, 0.33 mL | C[Si](CCS)(C)C | C5H14SSi
reactant | Xantphos | 231.4 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | DIPEA | 0.296 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-3-(4-bromo-phenyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 1.618 mmol, 528 mg | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)C1=CC=C(C=C1)Br | C15H20BrNO2
reactant | KHSO4 Na2SO4 | OS(=O)(=O)[O-].[K+].[O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 7 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 183.9 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (S)-3-[4-(2-trimethylsilanyl-ethylsulfanyl)-phenyl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 616 mg, quantitative yield | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)C1=CC=C(C=C1)SCC[Si](C)(C)C | C20H33NO2SSi
